US07183271B2
A 5.2 g portion of 60% sodium hydride oil dispersion was suspended in 50 ml of DMF, and 6.73 ml of benzyl alcohol was added thereto under ice-cooling. After warming up to room temperature, 12.3 g of 4-fluoro-2-trifluoromethylbenzoic acid was added thereto and stirred at room temperature for 6 hours. A 1 M hydrochloric acid aqueous solution was added to the reaction mixture, and the thus precipitated crystals were collected by filtration to obtain 16.39 g of 4-(benzyloxy)-2-(trifluoromethyl)benzoic acid.

reactant | sodium hydride oil dispersion | [H-].[Na+]
reactant | benzyl alcohol | 6.73 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-fluoro-2-trifluoromethylbenzoic acid | 12.3 g | FC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(benzyloxy)-2-(trifluoromethyl)benzoic acid | 16.39 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C15H11F3O3
